US09120776B2
A solution of 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid (940 mg, 3.82 mmol) and conc. sulfuric acid (1 drop) in methanol (25 mL) was heated with reflux for 14 hr. The reaction solution was cooled, and ethyl acetate was added thereto. The solution was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 100% ethyl acetate/hexane) to give methyl 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoate (557 mg, 2.139 mmol, 56.0%) as a white powder.

reactant | 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoic acid | 3.82 mmol, 940 mg | C(#N)C1=CC=C(C=C1)NC(CC(CC(=O)O)C)=O | C13H14N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 25 mL | CO | CH4O
product | methyl 5-(4-cyanophenylamino)-3-methyl-5-oxopentanoate | 2.139 mmol, 557 mg, 56.0% | C(#N)C1=CC=C(C=C1)NC(CC(CC(=O)OC)C)=O | C14H16N2O3
